### PR TITLE
[Merged by Bors] - feat(Analysis/innerProductSpace/GramMatrix): Add Gram.posSemidef_of_mapL

### PR DESCRIPTION
**Pull request by TJHeeringa**
---

`Analysis/innerProductSpace/TensorProduct` has a TODO for a continuous version of `TensorProduct.map`. One place which contains a proof for this is at [stack](https://math.stackexchange.com/a/3934668). This PR is lemma 1 of that.

It is written with `.PosSemidef` instead of `≤` because the Löwner Order on matrices is only defined in lean for matrices with values in `𝕜`. 

No AI used. 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 1]
```diff
@@ -134,6 +134,23 @@ theorem gram_eq_conjTranspose_mul {ι : Type*} [Fintype ι] (b : OrthonormalBasi
   ext i j
   simp [mul_apply, b.repr_apply_apply, b.sum_inner_mul_inner]
 
+open scoped MatrixOrder in
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: Not sure you need this since you don't seem to be using the order anywhere

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 2]
```diff
@@ -134,6 +134,23 @@ theorem gram_eq_conjTranspose_mul {ι : Type*} [Fintype ι] (b : OrthonormalBasi
...
+omit [Finite n] in
+/-- Inequality `‖f x‖ ≤ ‖f‖ * ‖x‖` lifted to Gram matrices. -/
+theorem posSemidef_of_mapL {F} [NormedAddCommGroup F] [InnerProductSpace 𝕜 F] (v : n → E)
+    (f : E →L[𝕜] F) : (‖f‖^2 • gram 𝕜 v - gram 𝕜 (f ∘ v)).PosSemidef := by
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]:
```suggestion
    (f : E →L[𝕜] F) : (‖f‖ ^ 2 • gram 𝕜 v - gram 𝕜 (f ∘ v)).PosSemidef := by
```

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 3]
```diff
@@ -134,6 +134,23 @@ theorem gram_eq_conjTranspose_mul {ι : Type*} [Fintype ι] (b : OrthonormalBasi
...
+  refine ⟨(isHermitian_gram 𝕜 v).smul
+    (IsSelfAdjoint.pow (IsSelfAdjoint.apply (Pi.isSelfAdjoint.mpr (congrFun rfl)) f) 2)
+    |>.sub (isHermitian_gram 𝕜 (f ∘ v)), ?_⟩
+  intro c
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]:
```suggestion
  refine ⟨(isHermitian_gram 𝕜 v).smul (((Pi.isSelfAdjoint.mpr (congrFun rfl)).apply f).pow 2)
    |>.sub (isHermitian_gram 𝕜 (f ∘ v)), fun c ↦ ?_⟩
```

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 4]
```diff
@@ -134,6 +134,23 @@ theorem gram_eq_conjTranspose_mul {ι : Type*} [Fintype ι] (b : OrthonormalBasi
   ext i j
   simp [mul_apply, b.repr_apply_apply, b.sum_inner_mul_inner]
 
+open scoped MatrixOrder in
+omit [Finite n] in
+/-- Inequality `‖f x‖ ≤ ‖f‖ * ‖x‖` lifted to Gram matrices. -/
+theorem posSemidef_of_mapL {F} [NormedAddCommGroup F] [InnerProductSpace 𝕜 F] (v : n → E)
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: This name doesn't really say much about what it is. How about something like `posSemidef_opNorm_smul_gram_sub_gram`?

**Review by themathqueen — COMMENTED** [review]
This looks like a very niche result. I'm not saying we don't need it (or that we do). But you mentioned that this is going to be used for providing a continuous version of `TensorProduct.map`, I don't think this is the way we want to go about it. We want `TensorProduct.mapL` (the continuous version) to be between normed spaces, not just inner product spaces. We can't do this yet, because we first need to generalize normed spaces of tensor products without going through inner products (I think there's a TODO for that on the file?). So we want `TensorProduct.mapL` to be analogous to [PiTensorProduct.mapL](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Module/PiTensorProduct/InjectiveSeminorm.html#PiTensorProduct.mapL).

That's obviously a much bigger task, so maybe this is fine for now.

**Comment by TJHeeringa** [comment]
> This looks like a very niche result. I'm not saying we don't need it (or that we do). But you mentioned that this is going to be used for providing a continuous version of `TensorProduct.map`, I don't think this is the way we want to go about it. We want `TensorProduct.mapL` (the continuous version) to be between normed spaces, not just inner product spaces. We can't do this yet, because we first need to generalize normed spaces of tensor products without going through inner products (I think there's a TODO for that on the file?). So we want `TensorProduct.mapL` to be analogous to [PiTensorProduct.mapL](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Module/PiTensorProduct/InjectiveSeminorm.html#PiTensorProduct.mapL).
> 
> That's obviously a much bigger task, so maybe this is fine for now.

That's indeed what I figured. However, the place that I want to use it for tensor products of RKHS. There the relation between the tensor product RKHS kernel and the constituent RKHS kernels is given by `kerFun (H₁ ⊗[𝕜] H₂) x = TensorProduct.mapL (kerFun H₁ x.1) (kerFun H₂ x.2)`. The limitation of having it only for inner product spaces is no problem there. So, I was hoping this would be fine for now.

**Comment by TJHeeringa** [comment]
-awaiting-author

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 5]
```diff
@@ -134,6 +134,20 @@ theorem gram_eq_conjTranspose_mul {ι : Type*} [Fintype ι] (b : OrthonormalBasi
   ext i j
   simp [mul_apply, b.repr_apply_apply, b.sum_inner_mul_inner]
 
+omit [Finite n] in
+/-- Inequality `‖f x‖ ≤ ‖f‖ * ‖x‖` lifted to Gram matrices. -/
+theorem posSemidef_opNorm_smul_gram_sub_gram {F} [NormedAddCommGroup F] [InnerProductSpace 𝕜 F]
+    (v : n → E) (f : E →L[𝕜] F) : (‖f‖ ^ 2 • gram 𝕜 v - gram 𝕜 (f ∘ v)).PosSemidef := by
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:140]: would it make more sense for `f` to come before `v`?
```suggestion
    (f : E →L[𝕜] F) (v : n → E) : (‖f‖ ^ 2 • gram 𝕜 v - gram 𝕜 (f ∘ v)).PosSemidef := by
```

Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:140]: The `v` induces the initial Gram matrix and then `f` is applied to that. Hence, even though f appears first in the proposition, I feel conceptually it makes more sense to have the `v` first. 

Let's hear what the maintainer has to say.

Comment (j-loreaux) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean:140]: I don't have a strong preference. I don't think it matters much, so we'll just leave it as-is.

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean [hunk 6]
```diff
@@ -134,6 +134,20 @@ theorem gram_eq_conjTranspose_mul {ι : Type*} [Fintype ι] (b : OrthonormalBasi
...
+  refine ⟨(isHermitian_gram 𝕜 v).smul (((Pi.isSelfAdjoint.mpr (congrFun rfl)).apply f).pow 2)
+    |>.sub (isHermitian_gram 𝕜 (f ∘ v)), fun c ↦ ?_⟩
+  simp_rw [Finsupp.sum, Matrix.sub_apply, Matrix.smul_apply, mul_sub, sub_mul,
+    Finset.sum_sub_distrib, sub_nonneg, Algebra.mul_smul_comm, gram_apply, ← starRingEnd_apply,
+    ← inner_smul_left, mul_comm _ (c _), Algebra.mul_smul_comm, ← Finset.smul_sum,
+    ← inner_smul_right, ← inner_sum, ← sum_inner, inner_self_eq_norm_sq_to_K, Function.comp_apply,
+    ← map_smul, ← map_sum]
+  norm_cast
+  grw [f.le_opNorm _, smul_eq_mul, ← mul_pow]
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: I realize this is longer, but I would like to argue that it's a bit more maintainable over the long term because it lays out a few goals explicitly.
```suggestion
    Finset.sum_sub_distrib, sub_nonneg]
  calc
    ∑ x ∈ c.support, ∑ y ∈ c.support, star (c x) * gram 𝕜 (f ∘ v) x y * c y
    _ = (‖f (∑ x ∈ c.support, c x • v x)‖ : 𝕜) ^ 2 := ?h1
    _ ≤ ‖f‖ ^ 2 • (‖∑ i ∈ c.support, c i • v i‖ : 𝕜) ^ 2 := by
      norm_cast
      grw [f.le_opNorm _, smul_eq_mul, ← mul_pow]
    _ = ∑ x ∈ c.support, ∑ y ∈ c.support, star (c x) * ‖f‖ ^ 2 • gram 𝕜 v x y * c y := ?h2
  all_goals
    rw [Finset.sum_comm]
    simp [← inner_self_eq_norm_sq_to_K, inner_sum, sum_inner, inner_smul_left, inner_smul_right,
      Finset.mul_sum, Finset.smul_sum, RCLike.real_smul_eq_coe_mul]
    grind
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

File: Mathlib/Analysis/InnerProductSpace/GramMatrix.lean (hunk 6 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/GramMatrix.lean]: I trust you on the maintainability bit.

**Comment by TJHeeringa** [comment]
-awaiting-author

**Review by j-loreaux — COMMENTED** [review]
bors merge
